US06399601B1
3-Bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid
3-Bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic acid ethyl ester was hydrolyzed according to Procedure F (7 equiv LiOH—H2O; room temperature overnight, then at 50° C. overnight again; acidified aqueous phase extracted with ethyl acetate; combined organic phases dried over MgSO4, concentrated).

reactant | 3-Bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(N1)C(=CS2)Br | C9H8BrNO2S
reactant | LiOH—H2O | 7 equiv | O[Li].O
product | 3-Bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid | BrC1=CSC2=C1NC(=C2)C(=O)O | C7H4BrNO2S
